US04439433
A mixture of 0.652 g of 3-[(1-methyl-1H-tetrazol-5-yl)-thiomethyl]-7-amino-ceph-3-eme-4-carboxylic acid, 6.5 ml of methylene chloride and 0.56 ml of triethylamine was stirred at room temperature for 15 minutes and then 1.29 g of 1-hydroxy-1H-benzotriazole 2-(2-azidoethoxyimino)-2-(2-tritylamino-4-thiazolyl)-acetate were added thereto. The mixture was stirred at room temperature for 20 hours and then 10 ml of water and 3 ml of 2 N hydrochloric acid were added thereto. The decanted organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was taken up in 5 ml of ethyl acetate and 10 ml of ether were added thereto. The mixture was stirred for 30 minutes at room temperature and was vacuum filtered to obtain 1.416 g of raw syn isomer of 3-[(1-methyl-1H-tetrazol-5-yl)-thiomethyl]-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-azidoethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid.

reactant | 3-[(1-methyl-1H-tetrazol-5-yl)-thiomethyl]-7-amino-ceph-3-eme-4-carboxylic acid | 0.652 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N6O3S2
reactant | methylene chloride | 6.5 ml | C(Cl)Cl | CH2Cl2
reactant | 1-hydroxy-1H-benzotriazole 2-(2-azidoethoxyimino)-2-(2-tritylamino-4-thiazolyl)-acetate | 1.29 g | N(=[N+]=[N-])CCON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ON1N=NC2=C1C=CC=C2
reactant | hydrochloric acid | 2 N, 3 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
product | 3-[(1-methyl-1H-tetrazol-5-yl)-thiomethyl]-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-azidoethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOCCN=[N+]=[N-])C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C36H32N12O5S3
